US07550598B2
(Z)-4-(4-chloroquinolin-2(1H)-ylidene)-3-isopropyl-1H-pyrazol-5(4H)-one
Methyl isobutyrylacetate (0.5 g, 3.47 mmol) was stirred in ethanol and acetic acid (10:1, 2:0.2 mL) and treated with hydrazine (0.13 mL, 4.16 mmol). After 24 hrs, the resulting solid was filtered off and washed with a minimum amount of ethanol to yield 3-isopropyl-1H-pyrazol-5(4H)-one. Then, the 3-isopropyl-1H-pyrazol-5(4H)-one (0.169 g, 1.34 mmol) and 4-chloroquinoline N-oxide (0.24 g, 1.34 mmol) were stirred in acetic anhydride (1.5 mL) at ambient temperature for 20-30 minutes. The reaction mixture was concentrated and the resulting solid was filtered off and washed with a minimum amount of ether to yield Example 18. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.30 (d, J=6.82 Hz, 6H) 3.98 (bs, 1H) 7.61 (t, J=7.58 Hz, 1H) 7.76-7.82 (m, 1H) 7.93 (d, J=8.34 Hz, 1H) 8.08-8.18 (m, 2H); ESI-MS: m/z calc'd for C15H14ClN3O 287.74. found 288.2 (M+H)+.

reactant | 3-isopropyl-1H-pyrazol-5(4H)-one | 1.34 mmol, 0.169 g | C(C)(C)C1=NNC(C1)=O | C6H10N2O
reactant | 4-chloroquinoline N-oxide | 1.34 mmol, 0.24 g | ClC1=CC=[N+](C2=CC=CC=C12)[O-] | C9H6ClNO
solvent | acetic anhydride | 1.5 mL | C(C)(=O)OC(C)=O | C4H6O3
product | (Z)-4-(4-chloroquinolin-2(1H)-ylidene)-3-isopropyl-1H-pyrazol-5(4H)-one | ClC1=C/C(/NC2=CC=CC=C12)=C/1\C(=NNC1=O)C(C)C | C15H14ClN3O
